US04126687
A mixture of 4.7 parts of 3-(3-chloropropyl)-2(3H)-benzoxazolone, 5 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. After cooling, water is added and the layers are separated. The 4-methyl-2-pentanone phase is dried, filtered and evaporated. The residue is boiled in a mixture of 4-methyl-2-pentanone, 2-propanol and methanol. The whole is cooled and the product is filtered off and dried, yielding 4 parts (47%) of 5-chloro-1-{1-[3-(2-oxo-3(2H)-benzoxazolyl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 212.3° C.

reactant | 3-(3-chloropropyl)-2(3H)-benzoxazolone | ClCCCN1C(OC2=C1C=CC=C2)=O | C10H10ClNO2
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 5-chloro-1-{1-[3-(2-oxo-3(2H)-benzoxazolyl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | 47% | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(OC3=C2C=CC=C3)=O)C=C1 | C22H23ClN4O3
